US09169261B2
Synthesis of 1-o-tolyl-1H-pyrazole-3-carboxylic acid
1-o-Tolyl-1H-pyrazole-3-carboxylic acid ethyl ester (238 mg, 1.03 mmol) was dissolved in a mixture of THF (2.0 mL) and MeOH (2.0 mL). To this was added NaOH (20% aqueous, 1.0 mL). The reaction mixture was stirred for 2 h, and was then diluted with EtOAc and washed with 1M HCl. The aqueous layer was extracted with EtOAc and the combined organics were dried over Na2SO4, filtered and concentrated to give the product as a white solid (164 mg, 0.81 mmol, 79%).

reactant | 1-o-Tolyl-1H-pyrazole-3-carboxylic acid ethyl ester | 1.03 mmol, 238 mg | C(C)OC(=O)C1=NN(C=C1)C1=C(C=CC=C1)C | C13H14N2O2
reactant | NaOH | 1.0 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.0 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-o-tolyl-1H-pyrazole-3-carboxylic acid | 0.81 mmol, 164 mg, 79% | C1(=C(C=CC=C1)N1N=C(C=C1)C(=O)O)C | C11H10N2O2
